US04338326
Part C: 6-Phenoxy-2-picoline N-oxide
To a solution containing 44.11 g of 6-phenoxy-2-picoline dissolved in 825 ml of methylene chloride under an atmosphere of nitrogen and at room temperature was added 96.82 g of 85% m-chloro-peroxybenzoic acid. The resulting mixture was stirred for 18 hrs. under an atmosphere of nitrogen and at room temperature. The reaction mixture was transferred to a separatory funnel and washed three times with 10% Na2CO3 twice with H2O and finally with saturated brine. After drying over anhydrous Na2SO4 removal of the solvents afforded 37.80 g of yellow oil. This material was used without purification in Part D.

reactant | 6-phenoxy-2-picoline | 44.11 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)C | C12H11NO
reactant | m-chloro-peroxybenzoic acid | 96.82 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 825 ml | C(Cl)Cl | CH2Cl2
product | 6-Phenoxy-2-picoline N-oxide | 37.80 g | O(C1=CC=CC=C1)C=1C=CC=C([N+]1[O-])C | C12H11NO2
